US05328910
A mixture of 2,5,6-trimethyl-7-phenyl-3H,7H-pyrrolo-[2,3-d]pyrimidin-4-one (1.46 g, 5.8 mM) (N S Girgis et atl, Synthesis, 1985, p101-104). A mixture of potassium hydroxide flake (327 mg, 5.8 mM) and methyl iodide (0.54 ml, 8.7 mM) in ethanol (37 ml) was heated under reflux for 15 hours. A mixture of methyl iodide (0.5 ml) and potassium hydroxide flake (0.3 g) was added and the reaction mixture heated under reflux for a further 3 hours. The solvent was evaporated and the residual solid suspended in water. The solid was collected by filtration and washed with water to give 2,3,5,6-tetramethyl-7-phenyl-3H,7H-pyrrolo-[2,3-d]pyrimidin-4-one (1.21 g, 78.5% yield) as a light foam solid, m p 215°-217° C.; NMR: DMSO-d6 2.0-2.1(3H, s, CH3), 2.3(3H, s, pyrrole CH3), 2.4(3 H, s, pyrrole- CH3), 3.4-3.5(3H, s, N--CH3), 7.3-7.6(5H, complex, aromatic).

reactant | 2,5,6-trimethyl-7-phenyl-3H,7H-pyrrolo-[2,3-d]pyrimidin-4-one | 5.8 mM, 1.46 g | CC=1NC(C2=C(N1)N(C(=C2C)C)C2=CC=CC=C2)=O | C15H15N3O
reactant | potassium hydroxide | [OH-].[K+]
reactant | methyl iodide | 8.7 mM, 0.54 ml | CI | CH3I
reactant | methyl iodide | 0.5 ml | CI | CH3I
solvent | ethanol | 37 ml | C(C)O | C2H6O
product | 2,3,5,6-tetramethyl-7-phenyl-3H,7H-pyrrolo-[2,3-d]pyrimidin-4-one | 1.21 g, 78.5% yield | CC=1N(C(C2=C(N1)N(C(=C2C)C)C2=CC=CC=C2)=O)C | C16H17N3O
